US08012966B2
A stirred solution of 2-(2-tert-butoxycarbonylamino-ethyl)-5-formyl-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester (1.120 g, 3 mmol) in dichloromethane (32 ml) was added dropwise slowly with trifluoroacetic acid (3.2 ml) at room temperature. Upon completion of the addition, the mixture was stirred for 3 hours, and concentrated to give 2-(2-amino-ethyl)-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester which Was used as such.

reactant | 2-(2-tert-butoxycarbonylamino-ethyl)-5-formyl-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 3 mmol, 1.120 g | C(C)OC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=O)CCNC(=O)OC(C)(C)C | C21H26N2O5
reactant | trifluoroacetic acid | 3.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 32 ml | ClCCl | CH2Cl2
product | 2-(2-amino-ethyl)-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC=C1C1=CC=CC=C1)CCN | C15H18N2O2
